* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft10.asc
V1 N001 0 5
R1 N002 N001 4
R2 N001 N003 2
I1 N002 0 10
I2 0 N003 11
.op
.backanno
.end
